US07589206B2
f) 4-(3-Chloro-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid methyl ester
4-Chloro-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid methyl ester (1.04 g), 3-chloroaniline (0.97 ml) and methanesulfonic acid (0.60 ml) in 1,4-dioxan (10 ml) were irradiated at 180° C. for 30 minutes with microwaves. The solid mass obtained was dissolved in methanol and the solvent evaporated. The residue was dissolved in ethyl acetate and washed with water followed by saturated brine solution then dried (MgSO4)), filtered and evaporated to yield a brown oil (1.6 g). The brown oil was purified by column chromatography on a Biotage® 40M column eluting in 20% ethyl acetate/iso-hexane, to give the title compound as an off-white solid (0.62 g).

reactant | 4-Chloro-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid methyl ester | 1.04 g | COC(=O)C=1C2=C(C(=NC1)Cl)C=CN2C | C10H9ClN2O2
reactant | 3-chloroaniline | 0.97 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | methanesulfonic acid | 0.60 ml | CS(=O)(=O)O | CH4O3S
solvent | 1,4-dioxan | 10 ml | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 4-(3-Chloro-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid methyl ester | 1.6 g | COC(=O)C=1C2=C(C(=NC1)NC1=CC(=CC=C1)Cl)C=CN2C | C16H14ClN3O2
